US05849732
A mixture of 19.85 g of tert-butylhydroquinone, 10.7 ml of ethyl bromide and 200 ml of dimethylformamide (DMF) was cooled to -78° C., and 4.82 g of 62.5% sodium hydride was added to the mixture. The temperature of the mixture was raised to 0° C., and the mixture was further stirred under ice-cooling for 30 minutes. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=10:1), and recrystallized from hexane to give 5.045 g of 4-ethoxy-2-tert-butylphenol (yield: 22%, melting point: 96°-98° C.).

reactant | tert-butylhydroquinone | 19.85 g | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | ethyl bromide | 10.7 ml | C(C)Br | C2H5Br
reactant | sodium hydride | 4.82 g | [H-].[Na+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-ethoxy-2-tert-butylphenol | 5.045 g, yield: 22% | C(C)OC1=CC(=C(C=C1)O)C(C)(C)C | C12H18O2
